data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_434405_0,[N:1](=[C:3](/[C:2]([O:5][H:8])=[O:6])[O:7][H:11])\[N:4]([H:9])[H:10]>>[N:1]([C:3]([C:2]([O:5][H:8])=[O:6])=[O:7])([N:4]([H:10])[H:11])[H:9],50.87393500000061
MR_209840_1,[C:1]1(/[C:5](=[C:6](\[C:4]([H:17])([H:18])[H:19])[O:8][H:9])[N:7]([H:11])[H:12])([H:10])[C:2]([H:13])([H:14])[C:3]1([H:15])[H:16]>>[C:1](\[C:2]([C:3]([H:15])([H:16])[H:17])([H:13])[H:14])(=[C:5](\[C:6](=[C:4]([H:18])[H:19])[O:8][H:9])[N:7]([H:11])[H:12])[H:10],51.71039249999325
MR_361715_1,[C:1](/[C:2](=[N:7]/[H:10])[H:11])([O:3][H:8])=[N:4]\[N:5]=[N:6]/[H:9]>>[C:1](/[C:2](=[N:7]/[H:10])[H:11])(=[O:3])/[N:4]=[N:5]\[N:6]([H:8])[H:9],37.21074999996901
MR_226432_1,[C:1]1([C:3](/[N:8]=[C:6](\[C:5]([H:17])([H:18])[H:19])[H:13])([H:11])[H:12])([H:9])[C:2]([C:4]([H:14])([H:15])[H:16])([H:10])[O:7]1>>[C:1]1([C:3](/[N:8]=[C:6](\[C:5]([H:17])([H:18])[H:19])[H:13])([H:11])[H:12])([H:9])[C@@:2]([C:4]([H:14])([H:15])[H:16])([H:10])[O:7]1,61.30737750001828
MR_369208_0,[C:1]([O:6][C:5]1([H:11])/[C:3](=[N:8]/[H:10])[N:7]=[C:4]([C:2]([H:15])([H:16])[H:17])[O:9]1)([H:12])([H:13])[H:14]>>[C:1]([O:6]/[C:4]([C:2]([H:15])([H:16])[H:17])=[N:7]\[C:3]([C:5](=[O:9])[H:11])=[N:8]/[H:10])([H:12])([H:13])[H:14],70.23733000001528
MR_693599_1,[N:1]([C:3](=[O:7])[H:11])(/[C:4](=[C:5](/[N:2]([H:9])[H:10])[H:13])[H:12])[O:6][H:8]>>[N:1](=[C:4](/[C:5]([N:2]([H:9])[H:10])([C:3](=[O:7])[H:11])[H:13])[H:12])\[O:6][H:8],50.09834499999698
MR_88631_1,[C:1]([C:2]([O:6][H:8])=[O:7])([C:3]([N:4]([H:9])[H:10])=[C:5]([H:13])[H:14])([H:11])[H:12]>>[C:1](=[C:3]([N:4]([H:9])[H:10])[C:5]([C:2]([O:6][H:8])=[O:7])([H:13])[H:14])([H:11])[H:12],65.32526000000416
MR_459206_1,[C:1]([N:4]([N:5](/[C:6]([C:2]([H:16])([H:17])[H:18])=[C:8](\[C:3]([H:19])([H:20])[H:21])[H:12])[H:10])[C:7](=[O:9])[H:11])([H:13])([H:14])[H:15]>>[C:1]([N:4]1[N:5]([H:10])[C@:6]1([C:2]([H:16])([H:17])[H:18])[C@:8]([C:3]([H:19])([H:20])[H:21])([C:7](=[O:9])[H:11])[H:12])([H:13])([H:14])[H:15],69.13355750001983
MR_576878_0,[C:1]([C:3]([H:13])([H:14])[H:15])([C:4]([H:16])([H:17])[H:18])([O:5][O:6][O:8][H:9])[O:7][C:2]([H:10])([H:11])[H:12]>>[C:1]([C:3]([H:13])([H:14])[H:15])([C:4]([H:16])([H:17])[H:18])([O:5][O:7][C:2]([H:10])([H:11])[H:12])[O:6][O:8][H:9],62.47766499998846
MR_531592_0,[C:1]1([H:13])([H:14])[C@@:3]([C:5](=[C:6]([H:18])[H:19])[O:9][H:12])([O:7][H:10])[C@:4]1([C:2]([H:15])([H:16])[H:17])[O:8][H:11]>>[C:1](/[C:3](=[C:4](\[C:2]([H:15])([H:16])[H:17])[O:8][H:11])[O:7][H:10])([C:5](=[C:6]([H:18])[H:19])[O:9][H:12])([H:13])[H:14],70.31137500004235
MR_540305_0,[N:1]([N:2]([O:7][H:8])[H:9])([N:3]([H:10])[H:11])/[C:5](=[C:6](/[N:4]([H:12])[H:13])[H:15])[H:14]>>[N:1]1([N:3]([H:10])[H:11])[C@@:5]([N:2]([O:7][H:8])[H:9])([H:14])[C@:6]1([N:4]([H:12])[H:13])[H:15],68.50668499999742
MR_242322_1,[N:1]1([H:9])[C:2]2([C:3]([N:4]([H:10])[H:11])=[O:8])[N:6]1[C:5]([H:12])=[N:7]2>>[n:1]1([H:9])[c:2]([C:3]([N:4]([H:10])[H:11])=[O:8])[n:7][c:5]([H:12])[n:6]1,12.844925000028695
MR_21595_0,[C:1](/[N:8]=[C:3]([N:5]([H:9])[H:10])\[N:7]=[C:4](/[C:2]([H:16])([H:17])[H:18])[N:6]([H:11])[H:12])([H:13])([H:14])[H:15]>>[C:1]([N:8]1[C:3]([N:5]([H:9])[H:10])=[N:7][C:4]1([C:2]([H:16])([H:17])[H:18])[N:6]([H:11])[H:12])([H:13])([H:14])[H:15],27.97959750005475
MR_98318_0,[C:1]([C:2](=[C:4]([H:11])[H:12])[O:5][H:7])([C:3](=[O:6])[H:8])([H:9])[H:10]>>[C:1]1([H:9])([H:10])[C:2]([C:3](=[O:6])[H:8])([O:5][H:7])[C:4]1([H:11])[H:12],50.843187500006906
MR_640478_1,[C:1]([C:5]([N:3]([C:2]([H:16])([H:17])[H:18])[H:11])=[O:9])(/[N:8]=[C:4](\[N:6]([H:12])[H:13])[O:7][H:10])([H:14])[H:15]>>[C:1]1([H:14])([H:15])[C:5](=[O:9])[N:8]1[C:4]([N:3]([C:2]([H:16])([H:17])[H:18])[H:11])([N:6]([H:12])[H:13])[O:7][H:10],65.77078499998507
MR_44929_0,[C:1]([C:4]([H:16])([H:17])[H:18])([C:5]([C:2]([H:11])([H:12])[H:13])=[O:7])([C:6]([C:3]([H:10])([H:14])[H:15])=[O:8])[H:9]>>[C:1](\[C:4]([H:16])([H:17])[H:18])(=[C:5](\[C:2]([H:11])([H:12])[H:13])[O:7][C:6]([C:3]([H:10])([H:14])[H:15])=[O:8])[H:9],48.77871250001149
MR_267542_1,[C:1](\[C:2](=[C:3]([H:10])[H:11])[H:9])([O:5][H:8])=[N:6]/[O:4][H:7]>>[C:1]([O:4][H:7])([O:5][H:8])=[N:6][C:2](=[C:3]([H:10])[H:11])[H:9],31.235067500003737
MR_484056_1,[C:1](\[O:6][H:9])(=[N:7]\[C:4]([N:2]([O:5][H:8])[H:10])([N:3]([H:12])[H:13])[H:14])[H:11]>>[C:1]([N:2]([O:5][H:8])[H:10])([O:6][H:9])(/[N:7]=[C:4](/[N:3]([H:12])[H:13])[H:14])[H:11],42.48237749999973
MR_140664_0,[C:1]([C:3]([C:4]([C:2]([H:11])([H:12])[H:13])=[O:7])=[O:6])([O:5][H:8])([H:9])[H:10]>>[C:1]([C:4]1([C:2]([H:11])([H:12])[H:13])[C:3](=[O:6])[O:7]1)([O:5][H:8])([H:9])[H:10],56.14932749998616
MR_113092_0,[C:1]([C:4]([C:2]([H:14])([H:15])[H:16])=[C:3]([N:5]([H:8])[H:9])[N:6]([H:7])[H:10])([H:11])([H:12])[H:13]>>[C:1]([C:4]([C:2]([H:14])([H:15])[H:16])(/[C:3](=[N:5]/[H:8])[N:6]([H:7])[H:10])[H:9])([H:11])([H:12])[H:13],55.184859999995695
